US08258134B2
A solution of 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile (43.1 g, 0.17 mol) in concentrated sulfuric acid (150 mL) was stirred at 110° C. for 1 h and was then allowed to cool to 25° C. The reaction was added dropwise to ice water. The resulting precipitate was collected by filtration, washed with cold water and dried in vacuo to afford 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide (44.5 g, 96%) as a white solid; ESI-MS 266 [M+H+]; HPLC: >97% (purity). 1H-NMR (300 MHz, DMSO-d6) δ 13.38 (s, 1H), 7.81 (s, 2H), 7.62-7.65 (m, 1H), 7.47-7.55 (m, 2H), 7.33-7.38 (m, 1H), 7.24-7.27 (m, 1H).

reactant | 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzonitrile | 0.17 mol, 43.1 g | ClC1=C(C=NNC1=O)OC1=C(C#N)C=CC=C1 | C11H6ClN3O2
reactant | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
product | 2-(5-chloro-6-oxo-1,6-dihydro-pyridazin-4-yloxy)-benzamide | 44.5 g, 96% | ClC1=C(C=NNC1=O)OC1=C(C(=O)N)C=CC=C1 | C11H8ClN3O3
